US05356926
Following a procedure analogous to Example 12, 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (230 mg, 0.86 mmol) and methyl 4-amino-3-methoxybenzoate (310 mg, 1.38 mM) [obtained by esterification of 4-amino-3-methoxybenzoic acid (Aldrich) with MeOH/AcC1]provides 269 mg (73%) of product; mp 278° C. dec. Saponification of 100 mg of methyl 3-methoxy-4-[[[5-methoxy-3-(1-methylethoxy)benzo [b]thien-2-yl]carbonyl]amino]benzoate gives 48 mg (50%) of product; mp 278°-281° C. dec.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 0.86 mmol, 230 mg | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | methyl 4-amino-3-methoxybenzoate | 1.38 mM, 310 mg | NC1=C(C=C(C(=O)OC)C=C1)OC | C9H11NO3
solvent | MeOH | CO | CH4O
product | 4-amino-3-methoxybenzoic acid | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
